US04407798
A mixture of 7-[2-t-butoxycarbonylmethoxyimino-2-(4-aminopyrimidin-2-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (1.31 g) and anisole (2.5 ml) in trifluoroacetic acid (7.5 ml) was stirred for 50 minutes under cooling in an ice-bath and for 70 minutes at room temperature. The mixture was poured into cold diisopropyl ether (60 ml) and the resulting precipitates were collected by filtration. The powder was dissolved in water (30 ml) and the mixture was adjusted to pH 4 to 5 with aqueous sodium bicarbonate and subjected to column chromatography on a non ionic adsorption resin "Diaion HP 20" (60 ml). After the column was washed with water, the elution was carried out with 30% aqueous methanol. The eluate was evaporated to remove methanol under reduced pressure and lyophilized to give 7-[2-carboxymethoxyimino-2-[4-aminopyrimidin-2-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (0.52 g).

reactant | 7-[2-t-butoxycarbonylmethoxyimino-2-(4-aminopyrimidin-2-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 1.31 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NC=CC(=N1)N | C25H27N7O7S
reactant | anisole | 2.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | diisopropyl ether | 60 ml | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 7.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-[2-carboxymethoxyimino-2-[4-aminopyrimidin-2-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 0.52 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NC=CC(=N1)N | C21H19N7O7S
